US08426447B2
A resealable tube was charged with 1-chloro-8-(pyridin-3-yl)-10H-chromeno[3,2-c]pyridin-10-one (0.500 g, 1.620 mmol) and acetic acid (12.5 mL). Ammonium acetate (1.248 g, 16.20 mmol) was added, the system was purged with argon, and the tube was sealed. The mixture stirred at 65° C. for 20 h. The reaction mixture was filtered and washed with water. The filter cake was concentrated down from heptanes to afford 8-(pyridin-3-yl)-1H-chromeno[3,2-c]pyridine-1,10(2H)-dione as an off-white solid. MS m/z=291.0 [M+H]+. Calcd for C17H10N2O3: 290.07.

reactant | 1-chloro-8-(pyridin-3-yl)-10H-chromeno[3,2-c]pyridin-10-one | 1.620 mmol, 0.500 g | ClC1=NC=CC2=C1C(C=1C=C(C=CC1O2)C=2C=NC=CC2)=O | C17H9ClN2O2
reactant | Ammonium acetate | 16.20 mmol, 1.248 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 12.5 mL | C(C)(=O)O | C2H4O2
product | 8-(pyridin-3-yl)-1H-chromeno[3,2-c]pyridine-1,10(2H)-dione | N1=CC(=CC=C1)C1=CC=2C(C=3C(NC=CC3OC2C=C1)=O)=O | C17H10N2O3
